* Pierce Crystal Oscillator - 32.768 kHz
* Save this as pierce_32k.cir and open in LTSpice

Vdd Vdd 0 DC 5

* Ideal inverting amplifier (behavioral source)
* Output = -1000 * Vin
Bamp out 0 V={-1000*V(in,0)}

* Feedback resistor
Rf in out 2Meg

* Load capacitors (typical watch crystal)
C1 out 0 12p
C2 in 0 12p

* Crystal equivalent circuit
* Series Rm - Lm - Cm
Rm in x1 50
Lm x1 x2 23.59H
Cm x2 out 1p

* Shunt capacitance
C0 in out 2p

* Large resistor to ground (avoid floating input)
Rin in 0 10Meg

* Kickstart oscillation
.ic V(out)=0.01

* Transient simulation
.tran 0 50m 0 10u

.end

