* Crystal Oscillator Circuit for Educational Demonstration
* Pierce Oscillator with CMOS Inverter

.param VDD=5V
.param freq=32.768k ; 32.768 kHz crystal frequency

* Power supply
VDD VDD 0 {VDD}

* CMOS Inverter (using complementary MOSFET pair)
* PMOS transistor
M1 OUT IN VDD VDD PMOS_MODEL W=10u L=1u
* NMOS transistor
M2 OUT IN 0 0 NMOS_MODEL W=5u L=1u

* Feedback resistor (Rfb)
Rfb IN OUT 1Meg

* Crystal model (simplified)
* Series resonant frequency at 32.768 kHz
L_crystal IN crystal_node {1/(4*pi*pi*freq*freq*C_crystal)}
C_crystal crystal_node OUT 0.012p
R_crystal crystal_node OUT 50

* Load capacitors
C1 IN 0 22p
C2 OUT 0 22p

* MOSFET Models (simplified)
.model NMOS_MODEL NMOS(VTO=1V KP=100u LAMBDA=0.01)
.model PMOS_MODEL PMOS(VTO=-1V KP=50u LAMBDA=0.01)

* Initial condition to help start oscillation
.ic V(OUT)=2.5V

* Analysis commands
.tran 0 2m 0 1u ; Run for 2ms with 1us max timestep
.four {freq} V(OUT) ; Fourier analysis at crystal frequency

* Measurement commands for educational purposes
.meas tran period TRIG V(OUT)=2.5 RISE=2 TARG V(OUT)=2.5 RISE=3
.meas tran frequency PARAM=1/period
.meas tran amplitude PP V(OUT)

* Options for better convergence
.options gmin=1e-12
.options abstol=1e-12
.options reltol=1e-6

.end

* To use this circuit:
* 1. Copy this netlist into a .asc file in LTspice
* 2. Run the simulation
* 3. Plot V(OUT) and V(IN) to see the oscillation
* 4. Use .four command results to analyze frequency content
* 5. Measure the oscillation frequency and compare to crystal spec

* Educational Discussion Points:
* - The crystal acts as a high-Q resonator
* - C1 and C2 determine the load capacitance seen by the crystal
* - Rfb provides DC feedback to bias the inverter in linear region
* - The circuit oscillates at the crystal's series resonant frequency
* - Phase shift through the crystal and capacitors creates positive feedback